US05571506
Step 3: Preparation of Bis-[5-(2-carboxyethyl)-3-[5-(2-carboxyethyl)-2-hydroxybenzyl]2-hydroxyphenyl]methane
A solution of bis-[5-(2-methoxycarbonylethyl)-3-[5-(2-methoxycarbonylethyl)-2-hydroxybenzyl]2-hydroxyphenyl]methane (0.10 g) in methanol (2 ml) is stirred with 10% aqueous sodium hydroxide (NaOH) (1 ml) at room temperature. The mixture is quenched with dilute aqueous hydrochloric acid (HCl) and the organic soluble material retreated as above. The mixture is quenched as above and the organic soluble material flash chromatographed, eluting with 10% methanol in chloroform. The product so obtained is treated with ammonium hydroxide solution and lyophilized to give the desired product as the ammonium salt, m.p. 150° C. (dec.).

reactant | bis-[5-(2-methoxycarbonylethyl)-3-[5-(2-methoxycarbonylethyl)-2-hydroxybenzyl]2-hydroxyphenyl]methane | 0.10 g | COC(=O)CCC=1C=C(C(=C(C1)CC1=C(C(=CC(=C1)CCC(=O)OC)CC1=C(C=CC(=C1)CCC(=O)OC)O)O)O)CC1=C(C=CC(=C1)CCC(=O)OC)O | C43H48O12
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | 2 ml | CO | CH4O
product | Bis-[5-(2-carboxyethyl)-3-[5-(2-carboxyethyl)-2-hydroxybenzyl]2-hydroxyphenyl]methane | C(=O)(O)CCC=1C=C(C(=C(C1)CC1=C(C(=CC(=C1)CCC(=O)O)CC1=C(C=CC(=C1)CCC(=O)O)O)O)O)CC1=C(C=CC(=C1)CCC(=O)O)O | C39H40O12
